US08013010B2
3-(3,5-Dimethyl-4-isoxazolyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 13, starting from 3-iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation I, and 3,5-dimethyl-4-isoxazoleboronic acid, the expected product is obtained in the form of a pink powder with a yield of 53%.

reactant | 3-iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)I)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19IO7S
reactant | 3,5-dimethyl-4-isoxazoleboronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
product | 3-(3,5-Dimethyl-4-isoxazolyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 53% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C=2C(=NOC2C)C)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H25NO8S
